US07897619B2
5-(5-((R)-3-Amino-4-(4-(trifluoromethyl)phenyl)butyl)-1,2,4-oxadiazol-3-yl)indolin-2-one:
tert-Butyl(R)-4-(3-(2-oxoindolin-5-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (200 mg, 0.37 mmol) was dissolved in 5.0 mL anhydrous DCM, and 5.0 mL TFA was added. After 30 minutes stirring at room temperature, the solvent was evaporated and the residue was taken up in 100 mL EtOAc. To the resulting solution was added 50 mL of saturated aqueous sodium bicarbonate and 30 mL 5% aqueous sodium carbonate. The organic layer was washed with brine and dried over sodium sulfate to afford the product as a white solid (130 mg, 81%). MS (API-ES) m/z (%): 417.1 (100%, M++H).

reactant | tert-Butyl(R)-4-(3-(2-oxoindolin-5-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 0.37 mmol, 200 mg | O=C1NC2=CC=C(C=C2C1)C1=NOC(=N1)CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C26H27F3N4O4
reactant | TFA | 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-(5-((R)-3-Amino-4-(4-(trifluoromethyl)phenyl)butyl)-1,2,4-oxadiazol-3-yl)indolin-2-one | 130 mg, 81% | N[C@H](CCC1=NC(=NO1)C=1C=C2CC(NC2=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F | C21H19F3N4O2
